US04451471
0.5 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 2.6 ml of 2 N sodium hydroxide solution while stirring. 0.367 g of allyl bromide is added, the mixture is stirred at room temperature for 10 minutes, extracted by shaking twice with 10 ml of toluene each time, the combined aqueous phases are washed twice with 5 ml of 2 N sodium hydroxide solution each time, dried over magnesium sulphate, concentrated by evaporation under reduced pressure and crystallised from hexane. 2-Allylthio-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 57°-58° is obtained.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 0.5 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | allyl bromide | 0.367 g | C(C=C)Br | C3H5Br
solvent | sodium hydroxide | 2 N, 2.6 ml | [OH-].[Na+]
product | 2-Allylthio-4,5-bis-(p-methoxyphenyl)-thiazole | C(C=C)SC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H19NO2S2
